* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADPL44002.asc
* Generated by LTspice 24.1.9 for Windows.
C2 SS 0 4.7n
V1 IN 0 4.3
Rload OUT 0 22
C1 OUT 0 2.2µ Rser=3m
R1 OUT ADJ 17.4k
R2 ADJ 0 10K
X§U1 IN ADJ IN SS OUT 0 ADPL44002
.tran 6m startup
.lib ADPL44002.sub
.backanno
.end
