* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADPL54203.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 24
C1 N004 0 1µ
L1 IN N002 9µ Rser=36m
L2 0 N001 1µ Rser=7m
D1 N001 OUT B520C
C2 OUT 0 220µ
C3 IN N002 470p Rser=39
R1 N002 N003 154K
R2 N005 0 10K
R3 N005 N006 115K
Rload OUT 0 1.7
X§U1 IN N004 IN 0 N002 N003 N005 N006 ADPL54203
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
K1 L1 L2 1
.tran 7m startup
.lib ADPL54203.sub
.backanno
.end
