* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADPL76030.asc
* Generated by LTspice 24.1.9 for Windows.
C1 N017 0 30n
C2 N020 0 1n
V1 IN 0 6
R1 N001 N002 5m
R2 IN N011 383K
C3 N004 N001 .1µ
M§Q1 IN N009 N001 N001 BSZ100N06LS3
M§Q2 N001 N007 0 0 BSZ100N06LS3
L1 N002 N003 1µ
R3 N006 OUT 15m
C4 N006 0 22µ
R4 N011 0 165K
M§Q3 N006 N010 N003 N003 BSC034N03LS
M§Q4 N003 N008 0 0 BSC034N03LS
C5 N003 N005 .1µ
R5 N019 0 147k
R6 OUT N014 100K
R7 N014 0 9.09K
C6 N012 0 4.7µ
R8 N012 N013 100K
C8 OUT 0 22µ
Rload OUT 0 10
C7 N015 0 .47µ
R9 N015 N016 280K
R10 N016 0 100K
R11 N018 N020 15k
X§U1 N007 N004 N001 N009 N001 N002 IN N012 N011 MP_01 MP_02 N015 N016 N006 OUT ISMON N013 N017 N014 N018 N019 0 MP_03 N006 N010 N003 N005 N008 0 ADPL76030
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 3.2m startup
* 1MHz
.lib ADPL76030.sub
.backanno
.end
