* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADR1000.asc
* Generated by LTspice 24.1.9 for Windows.
R2 REF N002 70k
R1 IZSET 0 118
R3 REF N005 61.9k
C4 N002 0 10n
R4 REF DIV 13k
R5 DIV 0 1k
R9 N006 N004 100k
C1 DIV N006 0.047µ
C3 N005 0 0.1µ
D1 DIODE 0 1N4148
X§U3 N005 DIV IN 0 N004 LT1013
Q3 IN N003 HEATER+ 0 2N3904
R11 N004 N003 1k
X§U2 N002 IZSET IN 0 N001 LT1013
X§U4 HEATER+ DIODE REF IZSET N002 DIV 0 N005 TEMP ADR1000
D2 N001 REF 1N4148
V1 IN 0 30
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 500m startup
.lib ADR1000.sub
.lib LT1013.sub
.backanno
.end
