* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADR1001.asc
* Generated by LTspice 24.1.9 for Windows.
RISET N004 0 120
RPG N001 PG 10k
VPG N001 0 5
VIN VIN 0 15
CIN 0 VIN 1µ
CNF 0 N002 1µ
COUT 5V 0 1µ
X§U1 N004 NC_01 6P6V 6P6V 6P6V NC_02 NC_03 5V N002 N002 5V 0 0 0 0 N003 VIN PG TCHIP ADR1001
VIHeater VIN N003 0
.tran 10 startup
.lib ADR1001.sub
.backanno
.end
