* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADR225.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 PWL(0 0 1 5)
X§U1 IN 0 OUT ADR225
C1 OUT 0 1µ
Rload OUT 0 250
.tran 1
.lib ADR.lib
.backanno
.end
