* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADR3425.asc
* Generated by LTspice 24.1.9 for Windows.
V1 vIN 0 4
C1 vOUT 0 1µ
S1 0 vOUT N002 0 5mA
V2 N002 0 PULSE(0 1 1m 100n 100n 0.6m 2m)
S2 vOUT vIN N001 0 5mA
V3 N001 0 PULSE(0 1 100u 100n 100n 0.6m 2m)
I1 vOUT 0 3.5mA
C2 vIN 0 0.1µ
X§U1 0 0 vIN vIN vOUT vOUT ADR3425
.tran 2m
.model 5mA SW(Ron=10 Roff=1G Vt=.5 Vh=-.2 Ilimit=5m level=2)
.lib ADR3425.sub
.backanno
.end
