* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADR3625.asc
* Generated by LTspice 24.1.9 for Windows.
C1 OUT 0 1µ
V1 IN 0 5
C2 IN 0 0.1µ
I1 OUT 0 PULSE(1m 2m 2m 1n 1n 2m 4m)
X§U1 IN IN 0 0 OUT OUT ADR3625
.tran 6m
.lib ADR3625.sub
.backanno
.end
