* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADR4525.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 5
C1 OUT 0 1µ
C2 IN 0 0.1µ
S1 0 OUT N002 0 10mA
V2 N002 0 PULSE(0 1 600u 10n 10n 200u 10m)
S2 OUT IN N001 0 10mA
V3 N001 0 PULSE(0 1 100u 10n 10n 200u 10m)
X§U1 IN 0 OUT ADR4525
.tran 1m
.model 10mA SW(Ron=10 Roff=1Meg Vt=.5 Vh=-.2 Ilimit=10m level=2)
.lib ADR4525.sub
.backanno
.end
