* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADR4533.asc
* Generated by LTspice 24.1.9 for Windows.
V1 vIN 0 5
C1 OUT 0 1µ
S1 0 OUT N002 0 5mA
V2 N002 0 PULSE(0 1 0.51m 10n 10n 0.3m 1m)
S2 OUT vIN N001 0 5mA
V3 N001 0 PULSE(0 1 100u 10n 10n 0.3m 1m)
I1 OUT 0 0mA
X§U1 vIN 0 OUT ADR4533
C2 vIN 0 1µ
.tran 1m
.model 5mA SW(Ron=1 Roff=1G Vt=.5 Vh=-.2 Ilimit=5m level=2)
.lib ADR4533.sub
.backanno
.end
