* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADR4550.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 10
C1 OUT_+5V 0 1µ
X§U1 IN 0 OUT_+5V ADR4550
R1 OUT_+5V N001 10k
R2 OUT_-5V N001 10k
X§U2 N002 N001 +V -V OUT_-5V ADA4000
R3 N002 0 10k
V2 +V 0 15
V3 -V 0 -15
.tran 0 1m 0.5m startup
.lib ADI.lib
.lib ADR4550.sub
.backanno
.end
