* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADR5044.asc
* Generated by LTspice 24.1.9 for Windows.
Rload OUT 0 10k
Rbias IN OUT 715
Vin IN 0 4.5
X§U1 OUT 0 ADR5044
.dc TEMP -40 125 .1
.lib ADR5044.sub
.backanno
.end
