* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADR5045.asc
* Generated by LTspice 24.1.9 for Windows.
Rload OUT 0 10k
Rbias IN OUT 768
Vin IN 0 5.5
X§U1 OUT 0 ADR5045
.dc TEMP -40 125 .1
.lib ADR5045.sub
.backanno
.end
