* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADR1399E.asc
* Generated by LTspice 24.1.9 for Windows.
Rbias IN OUT 2.67k
Vin IN 0 15
V1 N002 0 30
C1 N003 0 1µ
Rload N001 0 10k
R_Parasitic N001 OUT 10µ
C2 IN 0 1µ
R1 OUT N003 5
X§U2 OUT 0 N002 0 OUT 0 ADR1399E
.tran 5
.lib ADR1399E.sub
.backanno
.end
