* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADR1399H.asc
* Generated by LTspice 24.1.9 for Windows.
Rbias IN OUT 2.67k
Rsense OUT N002 1µ
Vin IN 0 15
V1 N001 N003 0
Rsense1 N003 0 1µ
X§U2 N002 0 N001 0 ADR1399H
.noise v(out) Vin dec 20 0.1 100k
.lib ADR1399H.sub
.backanno
.end
