* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADuM4195-1.asc
* Generated by LTspice 24.1.9 for Windows.
V1 Vdd2 0 5
V3 Shtdn 0 0
V4 Vdd1 0 5
V2 Vin 0 5 AC 1
X§U1 Vdd2 Vin Shtdn 0 0 Vout Vdd1 ADuM4195-1
.tran 1m
.lib ADuM4195-1.sub
.backanno
.end
