* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADuM4221-1C.asc
* Generated by LTspice 24.1.9 for Windows.
V1 Vin 0 PULSE(0 5 0 2n 2n 5u 10u)
V3 N005 0 0
V2 N003 0 5
R1 N006 0 10K
X§U1 Vin N003 0 N005 N006 0 N007 N004 0 N001 N002 ADuM4221-1C
C1 Gate_A 0 2.2n
C2 Gate_B 0 2.2n
R2 Gate_A N001 5.11
R3 Gate_B N007 5.11
V4 N004 0 15
V5 N002 0 15
.tran 50u
* GND1 is modeled as common GND
.lib ADuM4221-1C.sub
.backanno
.end
