* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADuM4135.asc
* Generated by LTspice 24.1.9 for Windows.
R1 N009 N010 3.9
R2 N011 N010 3.9
R3 N004 N003 10K
R4 N012 N003 10K
R5 N013 N003 10K
D1 N006 N007 MMSD4148
R6 N006 N005 1K
C1 N005 0 10p
V1 N008 0 PULSE(0 5 0 2n 2n 5u 10u)
V2 N003 0 5
V3 N001 0 15
V4 N002 0 80
M§Q1 N007 N010 0 0 BSC12DN20NS3
R7 N002 N007 1
V5 0 N014 5
X§U1 0 N008 0 N012 N013 N004 N003 N014 N005 0 N011 N001 N009 N010 ADuM4135
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 40u
.lib ADuM4135.sub
.backanno
.end
