* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADuM4136.asc
* Generated by LTspice 24.1.9 for Windows.
R1 N009 N010 3.9
R4 N011 N001 10K
R5 N012 N001 10K
D1 N006 N007 MMSD4148
R6 N006 N005 1K
C2 N005 0 10p
V1 N008 0 PULSE(0 5 0 2n 2n 5u 10u)
V2 N001 0 5
V3 N002 0 15
V4 N003 0 PULSE(80 100 15.5u 20u 1u 2u)
R8 N003 N007 1
V5 0 N013 5
X§U1 N008 0 N001 0 N004 N012 N011 N013 N009 N002 N005 0 ADuM4136
V6 N004 0 PULSE(5 0 42.5u 10n 10n 2u)
M1 N007 N010 0 0 BSC12DN20NS3
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 100u
.lib ADuM4136.sub
.backanno
.end
