* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADuM4195.asc
* Generated by LTspice 24.1.9 for Windows.
V1 Vdd2 0 5
V4 Vdd1 0 5
V2 Vin+ 0 5
X§U1 Vdd1 0 Vref1 Vout1 Vout2 Vout2 Vin+ Vref2 0 Vdd2 ADuM4195
.tran 1m
.lib ADuM4195.sub
.backanno
.end
