* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADuM3223A.asc
* Generated by LTspice 24.1.9 for Windows.
V1 inputA 0 PULSE(0 5 0 1n 1n 5u 10u)
V2 inputB 0 PULSE(5 0 0 1n 1n 5u 10u)
V3 VDD1 0 5
V4 disable 0 0
V5 N001 0 12
C3 VOA 0 2n
C5 VOB 0 2n
C1 0 VDD1 0.01µ
V6 N002 0 12
X§U1 inputA inputB VDD1 0 disable 0 VOB N002 0 VOA N001 ADuM3223A
.tran 50u
.lib ADuM3223A.sub
.backanno
.end
