* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADuM4121A.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 5
V2 N002 0 15
R1 OUT N003 10
C1 OUT 0 2n
V3 VI+ 0 PULSE(0 5 0 2n 2n 9.998u 20u)
X§U1 N001 VI+ 0 0 0 OUT N003 N002 ADuM4121A
C2 N001 0 0.1µ
C3 N002 0 10µ
C4 N002 0 0.1µ
.tran 100u
.lib ADuM4121A.sub
.backanno
.end
