* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADuM4122B.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 5
V2 N002 0 15
R1 OUT N003 10
C1 OUT 0 2n
V3 IN 0 PULSE(0 5 0 2n 2n 998n 2u)
R2 OUT N004 10
X§U1 N001 IN 0 0 N003 N002 0 N004 ADuM4122x Vrun2=7.2
.tran 10u
.lib ADuM4122x.sub
.backanno
.end
