* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADuM4221B.asc
* Generated by LTspice 24.1.9 for Windows.
C4 Gate_A 0 2.2n
C5 Gate_B 0 2.2n
R2 Gate_A N001 5.11
R3 Gate_B N007 5.11
V1 VIA 0 PULSE(0 5 0 2n 2n 5u 10u)
V4 N005 0 0
V3 N003 0 5
V6 N004 0 15
R1 N006 0 10K
V5 N002 0 15
V2 VIB 0 PULSE(5 0 0 2n 2n 5u 10u)
X§U2 VIA VIB N003 0 N005 N006 0 N007 N004 0 N001 N002 ADuM4221B
.tran 50u
.lib ADuM4221B.sub
.backanno
.end
