* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADuM4223B.asc
* Generated by LTspice 24.1.9 for Windows.
V1 VIA 0 PULSE(0 5 0 1n 1n 5u 10u)
V2 VIB 0 PULSE(5 0 0 1n 1n 5u 10u)
V3 VDD1 0 5
V5 N001 0 12
C3 VOA 0 2n
C5 VOB 0 2n
C1 0 VDD1 10n
V6 N002 0 12
X§U1 VIA VIB VDD1 0 0 0 VOB N002 0 VOA N001 ADuM4223B
.tran 50u
.lib ADuM4223B.sub
.backanno
.end
