* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADuM4122C.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 5
V2 N002 0 15
R1 GATE N004 10
C1 GATE 0 2n
V3 N003 0 PULSE(0 5 0 2n 2n 998n 2u)
R2 GATE N005 10
X§U1 N001 N003 0 0 N004 N002 0 N005 ADuM4122x Vrun2=11.2
.tran 10u
.lib ADuM4122x.sub
.backanno
.end
