* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADuM340E0.asc
* Generated by LTspice 24.1.9 for Windows.
V1 VDD1 0 5
V2 VDD2 0 5
V4 VE 0 5
V5 VIA 0 PULSE(0 5 0 1n 1n 5u 10u )
V6 VIB 0 PULSE(0 5 0 1n 1n 5u 10u )
V7 VIC 0 PULSE(0 5 0 1n 1n 5u 10u )
V8 VID 0 PULSE(0 5 0 1n 1n 5u 10u )
X§U1 VDD1 0 VIA VIB VIC VID VE VOD VOC VOB VOA 0 VDD2 ADuM340E0
.tran 100u
.lib ADuM340E0.sub
.backanno
.end
