* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADuM341E0.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 5
V2 N002 0 5
V3 N003 0 5
V4 N004 0 5
V5 VIA 0 PULSE(5 0 0 1n 1n 10u 20u)
V6 VIB 0 PULSE(5 0 0 1n 1n 10u 20u)
V7 VIC 0 PULSE(5 0 0 1n 1n 10u 20u)
V8 VID 0 PULSE(0 5 0 1n 1n 10u 20u)
X§U1 N001 0 VIA VIB VIC VOD N003 N004 VID VOC VOB VOA 0 N002 ADuM341E0
.tran 100u
.lib ADuM341E0.sub
.backanno
.end
