* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\ADuM342E0.asc
* Generated by LTspice 24.1.9 for Windows.
V1 VDD1 0 5
V2 VDD2 0 5
V3 VE1 0 5
V4 VE2 0 5
V5 VIA 0 PULSE(5 0 0 1n 1n 10u 20u)
V6 VIB 0 PULSE(5 0 0 1n 1n 10u 20u)
V7 VIC 0 PULSE(5 0 0 1n 1n 10u 20u)
V8 VID 0 PULSE(0 5 0 1n 1n 10u 20u)
X§U1 VDD1 0 VIA VIB VOC VOD VE1 VE2 VID VIC VOB VOA 0 VDD2 ADuM342E0
.tran 100u
.lib ADuM342E0.sub
.backanno
.end
