* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\CMP402.asc
* Generated by LTspice 24.1.9 for Windows.
V1 V+ANG 0 5
V3 V+DIG 0 5
R1 OUT 0 10k
V4 +IN 0 PULSE(0 3 200n 10n 10n 1u 2u)
R2 V+ANG -IN 1Meg
R3 -IN 0 1Meg
X§U1 +IN -IN V+ANG 0 V+DIG 0 OUT CMP402
.tran 200u
.lib CMP402.sub
.backanno
.end
