* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1004-1.2.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 OUT 0 LT1004-1.2
R1 OUT N001 36K
V1 N001 0 PULSE(0 5 100u 10n 10n 500u 1)
.tran 700u
.lib LTC3.lib
.backanno
.end
