* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1118-2.5.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 5
C1 N002 0 1µ
X§U1 0 MP_01 N001 MP_02 N001 N002 LT1118-2.5
.tran 3m startup
.lib LT1118.lib
.backanno
.end
