* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1304-3.3.asc
* Generated by LTspice 24.1.9 for Windows.
C2 OUT 0 100µ Rser=0.02
D1 N001 OUT MBRS140
L1 IN N001 22µ Rser=0.02 Rpar=5000
V1 IN 0 2
X§U1 N003 N004 IN N001 0 N002 IN OUT LT1304 top=590K bot=355K
Rload OUT 0 20
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 1m startup
.lib LT1304.sub
.backanno
.end
