* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1389-1.25.asc
* Generated by LTspice 24.1.9 for Windows.
V2 N001 0 PULSE(0 5 1.5m 10n 10n 4m 2)
R1 N001 N002 4.7Meg
X§U1 N002 0 LT1389-1.25
.tran 10m
.lib LT1389-1.25.sub
.backanno
.end
