* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1389-2.5.asc
* Generated by LTspice 24.1.9 for Windows.
V1 N001 0 PULSE(0 5 1.5m 10n 10n 4m 2)
R1 N001 N002 2.8Meg
X§U1 N002 0 LT1389-2.5
.tran 10m
.lib LT1389-2.5.sub
.backanno
.end
