* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1389-4.096.asc
* Generated by LTspice 24.1.9 for Windows.
V2 N001 0 PULSE(0 10 2m 10n 10n 10m 2)
R1 N001 N002 3.9Meg
X§U1 N002 0 LT1389-4.096
.tran 20m
.lib LT1389-4.096.sub
.backanno
.end
