* C:\Users\adity\AppData\Local\LTspice\examples\ApplicationsCopy\LT1578-2.5.asc
* Generated by LTspice 24.1.9 for Windows.
V1 IN 0 10
C1 N004 0 500p
L1 N002 OUT 15µ
C2 N001 N002 .33µ
C3 OUT 0 100µ Rser=.05
D1 0 N002 1N5818
D2 OUT N001 1N914
R1 N005 N004 10K
Rload OUT 0 2.5
X§U1 N002 IN N001 0 N005 OUT N003 LT1578-2.5
.model D D
.lib C:\Users\adity\AppData\Local\LTspice\lib\cmp\standard.dio
.tran 1m startup
.lib LT1578-2.5.sub
.backanno
.end
